### PR TITLE
[Merged by Bors] - feat(RingTheory): resultant is in the span of the two polynomials

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Resultant/Basic.lean [hunk 1]
```diff
@@ -394,6 +397,96 @@ lemma resultant_X_sub_C_right (r : R) (hf : f.natDegree ≤ m) :
...
+      (((degreeLT.basis _ _).prod (degreeLT.basis _ _)).reindex finSumFinEquiv)
+      (degreeLT.basis _ _) = sylvester f g m n := by
+  ext i j
+  obtain ⟨j, rfl⟩ := finSumFinEquiv.surjective j
+  simpa [LinearMap.toMatrix_apply] using congr($(toMatrix_sylvesterMap f g hf hg) i j)
+
+set_option linter.unusedVariables false in
+/-- The adjugate map of the sylvester map. It takes `P` to `(p, q)` such that
+`f * q + g * p = Res(f, g) * P`. -/
+@[nolint unusedArguments] -- This def makes no sense if `hf` and `hg` does not hold.
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Resultant/Basic.lean]: Sure, but isn't it convenient to omit them nonetheless?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
